data/pmechdb/original/mc_train_fold0/raw/train.txt
C1CN(CCN1C2=CC=C(C=C2)C(=O)C=CC3=CC=C(C=C3)Cl)[S:20](=O)(C4=CC=C(C=C4)Cl)([O-:10])[Cl:21].C(=O)(O)[O-].[K+]>>C1CN(CCN1C2=CC=C(C=C2)C(=O)C=CC3=CC=C(C=C3)Cl)[S:20](=O)(=[O:10])C4=CC=C(C=C4)Cl.[Cl-:21].C(=O)(O)[O-].[K+] 10=20;20,21=21
[B-]([O+:21](C)[C:20](C)(C)[O:10]C)(F)(F)F>>[B-]([O:21]C)(F)(F)F.C[C:20](=[O+:10]C)C 10=20;20,21=21
CCO[C:20](CCC=O)([OH:10])[O:21]C(=O)C>>CCO[C:20](=[OH+:10])CCC=O.CC(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC(C)(C(C)(C)O)[OH:10]>>[H:20][OH+:10]C(C)(C)C(C)(C)O.OS(=O)(=O)[O-:21] 10=20;20,21=21
CC[O-:10].CC(=O)O[C:20](=[O:21])C=C>>CC[O:10][C:20](C=C)([O-:21])OC(=O)C 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH3:20].C(CO)[NH:10]CCO>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].[CH3:20][NH+:10](CCO)CCO 10=20;20,21=21
[H:20][OH2+:21].C1=NC(=C(S1)C(O)[O:10]CCO)Cl.C1CCOC1.C1COCCO1.[Cl-]>>[H:20][O+:10](CCO)C(C1=C(N=CS1)Cl)O.[OH2:21].C1CCOC1.C1COCCO1.[Cl-] 10=20;20,21=21
CC(=O)O[Si-:10](C)(C)(C)[O+:11]=C1CCCCC1>>CC(=O)O[Si:10](C)(C)C.C1CCC(=[O:11])CC1 10,11=11
CC1C([C:11]2(CCC3=C([C:10]2([CH:20]1[O:21]S(=O)(=O)C)C)C=CC(=C3)OC)[O-:12])C>>CC1[CH:20]=[C:10](C2=C(CC[C:11](=[O:12])C1C)C=C(C=C2)OC)C.CS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][OH+:21]C(C1CCCCC1)([NH3+])O.OS(=O)(=O)[O-:10]>>C1CCC(CC1)C([NH3+])(O)[OH:21].[H:20][O:10]S(=O)(=O)O 10=20;20,21=21
CC1=C(C(=C2CCC(OC2=C1C)(C)[C:20](=[OH+:21])O)C)O.C[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CC1=C(C(=C2CCC(OC2=C1C)(C)[C:20](O)([OH:21])[OH+:10]C)C)O.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
C[S:20][OH2+:21].[Br-:10]>>C[S:20][Br:10].[OH2:21] 10=20;20,21=21
CO[PH:10](OC)(I)[I:11]>>CO[PH+:10](OC)I.[I-:11] 10,11=11
C1=CC(=CC=C1[CH2:20][Br:21])C#N.C(CO)[NH2:10]>>C1=CC(=CC=C1[CH2:20][NH2+:10]CCO)C#N.[Br-:21] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC=C2S(=O)(=O)O)Br.[Br-:10]>>[H:20][Br:10].C1=CC2=C(C=C[CH:22]=[C:21]2Br)C(=C1)S(=O)(=O)O 10=20;20,21=21,22
CC[NH:10]CC.CCO[C:20](=[O:21])C>>CC[NH+:10](CC)[C:20](C)([O-:21])OCC 10=20;20,21=21
CCOC(=O)N1CCC(C=C1)[OH:10].Cl[Sn:20](Cl)(Cl)Cl.C[Si](C)(C)CC=C>>CCOC(=O)N1CCC(C=C1)[OH+:10][Sn-:20](Cl)(Cl)(Cl)Cl.C[Si](C)(C)CC=C 10=20,
CCCC[P:10](CCCC)CCCC.C1CC(=O)[N:21](C1=O)[S:20]C2=CC=C(C=C2)Cl.CCCCC(=O)C1CCC2C1(CCC3C2CCC4C3(CCC(C4)O)C)C>>CCCC[P+:10](CCCC)(CCCC)[S:20]C1=CC=C(C=C1)Cl.C1CC(=O)[N-:21]C1=O.CCCCC(=O)C1CCC2C1(CCC3C2CCC4C3(CCC(C4)O)C)C 10=20;20,21=21
[H:20][CH2:21][C:22](=[O:23])CCC(=O)OCC.C[O-:10]>>[H:20][O:10]C.CCOC(=O)CC[C:22](=[CH2:21])[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][O:21]P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OC(C)(CC(C)C)C(=O)C4CCCC5=C(C4=O)C=CC=C5.[OH-:10]>>[H:20][OH:10].CC(C)CC(C)(C(=O)C1CCCC2=C(C1=O)C=CC=C2)OP(C3=CC=CC=C3)(C4=CC=CC=C4)(C5=CC=CC=C5)[O-:21] 10=20;20,21=21
[H:20][CH:21](C[C@]12[C@@H]3C(CC[C@]1(C4CCC5(C2CCC5)C4N3)C)C(C)C)[C:22](=[O+:23][Li-][N:10](C(C)C)C(C)C)OC>>[H:20][N+:10]([Li-][O:23][C:22](=[CH:21]C[C@]12[C@@H]3C(CC[C@]1(C4CCC5(C2CCC5)C4N3)C)C(C)C)OC)(C(C)C)C(C)C 10=20;20,21=21,22;22,23=23
[H:20][C:21]1([CH+:22]C=C(O1)C)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC1=C[CH:22]=[C:21](O1)S(=O)(=O)O 10=20;20,21=21,22
[H:20][C:21]1(C(=O)CC[C:22]1=[O:23])C.CC[O-:10]>>[H:20][O:10]CC.C[C:21]1=[C:22](CCC1=O)[O-:23] 10=20;22,23=23;20,21=21,22
[CH3:10][Mg:11]Br.C[P+:20](C)([Mg]Br)Cl>>C[P:20](C)([CH3:10])([Mg]Br)Cl.[Mg+:11]Br 10,11=10,20
C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)(C3=CC=CC=C3)(OCC4=C(N=C5C=CC=CC5=C4)Cl)[Br:11].C(Br)(Br)Br>>C1=CC=C(C=C1)[P+:10](C2=CC=CC=C2)(C3=CC=CC=C3)OCC4=C(N=C5C=CC=CC5=C4)Cl.[Br-:11].C(Br)(Br)Br 10,11=11
[H:20][NH+:21](CCN)C(C1=CC=CC=C1)(C(=O)C2=CC=CC=C2)[O-].C(CN)[NH2:10].CCO>>[H:20][NH2+:10]CCN.C1=CC=C(C=C1)C(=O)C(C2=CC=CC=C2)([NH:21]CCN)[O-].CCO 10=20;20,21=21
[H:20][O:21][S+:22](C)C.[Br-:10]>>[H:20][Br:10].C[S:22](=[O:21])C 10=20;20,21=21,22
COC1C2[CH:20]([S+:21]2C3=CC=CC=C3)C4C(O1)COC(O4)C5=CC=CC=C5.CS(=O)(=O)[O-:10]>>COC1C([CH:20](C2C(O1)COC(O2)C3=CC=CC=C3)[O:10]S(=O)(=O)C)[S:21]C4=CC=CC=C4 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.C1CCN(C1)C2(CC3=C(C2)C=CC=C3)[OH:10]>>[H:20][OH+:10]C1(CC2=C(C1)C=CC=C2)N3CCCC3.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][NH+:21](CC)C(C)C(=O)C.[OH2:10]>>[H:20][OH2+:10].CC[NH:21]C(C)C(=O)C 10=20;20,21=21
CCC(C)C(C(=O)NCC1=CC=CC=C1)[NH2+:21][C:20](=O)[O-:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>CCC(C)C(C(=O)NCC1=CC=CC=C1)[NH2:21].[C:20](=O)=[O:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.C1CC2CCC(=O)C3C2=C(C1)OC3[OH:10].C1=CC=CC=C1>>[H:20][OH+:10]C1C2C(=O)CCC3C2=C(O1)CCC3.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].C1=CC=CC=C1 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=C(C=C2)C(=O)C)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(=O)C1=CC2=C(C=C[CH:22]=[C:21]2[N+](=O)[O-])C=C1 10=20;20,21=21,22
[H:20][O+:21](C(C)C(=O)OC(C1=CC=CC=C1)C2=CC=CC=C2)P(C3=CC=CC=C3)(C4=CC=CC=C4)(C5=CC=CC=C5)N(C(=O)OCC)NC(=O)OCC.C1=CC=C(C=C1)OCC(=O)[O-:10]>>[H:20][O:10]C(=O)COC1=CC=CC=C1.CCOC(=O)NN(C(=O)OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[O:21]C(C)C(=O)OC(C4=CC=CC=C4)C5=CC=CC=C5 10=20;20,21=21
